US04151100
A mixture of 2,2'-thiobis(4-t-octylphenol) (44.2 g.) and anhydrous potassium carbonate (6.9 g.) was heated in refluxing 2-propanol for about 0.5 hr. and then cobalt (II) acetate tetrahydrate (12.5 g.) was added. The reaction mixture was stirred at reflux temperature for about 4 hr. during which a precipitate of pink solids was formed. The mixture was filtered and the solids were washed with water and dried. The solids were recystallized from 2-propanol and the resulting pink solid, m.p. 355°-357° C. was dealcoholated by heating at 140° C. at less than 0.1 mm of mercury to give the cobalt 2,2'-thiobis-(4-t-octylphenolate) as a brownish solid m.p. greater than 360° C.

reactant | 2,2'-thiobis(4-t-octylphenol) | 44.2 g | S(C1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O)C1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)O | C28H42O2S
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | cobalt (II) acetate tetrahydrate | 12.5 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | 2-propanol | CC(C)O | C3H8O
product | cobalt 2,2'-thiobis-(4-t-octylphenolate) | S(C1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)[O-])C1=C(C=CC(=C1)C(C)(C)CC(C)(C)C)[O-].[Co+2] | InChI=1S/C28H42O2S.Co/c1-25(2,3)17-27(7,8)19-11-13-21(29)23(15-19)31-24-16-20(12-14-22(24)30)28(9,10)18-26(4,5)6;/h11-16,29-30H,17-18H2,1-10H3;/q;+2/p-2
